US07183270B2
A solution of 4-oxo-4-(3-trifluoromethylphenyl)butyric acid methyl ester (2.47 g, 9.50 mmol), trimethylorthoformate (4.8 mL), p-TsOH (181 mg, 0.95 mmol) and ethylene glycol (7.3 mL) was heated at 50° C. for 3 h. The mixture was diluted with EtOAc (500 mL), washed with saturated NaHCO3 (3×200 mL), water (2×200 mL), and brine (150 mL), dried over Na2SO4, filtered and evaporated to give a mixture of esters. The mixture was stirred in MeOH (25 mL) with NaOMe (400 mg) at room temperature for 6 h. The reaction was quenched with saturated NH4Cl and the methanol was removed by evaporation. The residue was dissolved in EtOAc, washed with saturated NH4Cl (2×200 mL), water (2×200 mL) and brine (200 mL), dried over Na2SO4, and evaporated to give 3-[2-(3-trifluoromethylphenyl)-[1,3]dioxolan-2-yl]propionic acid methyl ester (2.71 g, 94%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ 7.73 (s, 1H), 7.65 (d, J=7.7 Hz, 1H), 7.56 (d, J=7.7 Hz, 1H), 7.47 (t, J=7.7 Hz, 1H), 4.10–3.99 (m, 2H), 3.80–3.70 (m, 2H), 3.65 (s, 3H), 2.44 (t, J=7.8 Hz, 2H), 2.24 (t, J=7.8 Hz, 2H); 19F NMR (282 MHz, CDCl3) δ −62.9; ESI MS m/z 305 [C14H15F3O4+H]+.

reactant | 4-oxo-4-(3-trifluoromethylphenyl)butyric acid methyl ester | 9.50 mmol, 2.47 g | COC(CCC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C12H11F3O3
reactant | trimethylorthoformate | 4.8 mL | COC(OC)OC | C4H10O3
reactant | p-TsOH | 0.95 mmol, 181 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaOMe | 400 mg | C[O-].[Na+]
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 25 mL | CO | CH4O
solvent | ethylene glycol | 7.3 mL | C(CO)O | C2H6O2
product | 3-[2-(3-trifluoromethylphenyl)-[1,3]dioxolan-2-yl]propionic acid methyl ester | 2.71 g, 94% | COC(CCC1(OCCO1)C1=CC(=CC=C1)C(F)(F)F)=O | C14H15F3O4
